US07994423B2
2,3,8,9,14,15-Hexakis-decylsulfanyl-5,6,11,12,17,18-hexaazatrinaphthylene.
A mixture of 2,3,8,9,14,15-hexachloro-5,6,11,12,17,18-hexaazatrinaphthylene (3.00 g, 5.08 mmol), 1-decanethiol (13.74 mL, 66.75 mmol) and K2CO3 (25.55 g, 185.00 mmol) in DMF (250 mL) was stirred at 80° C. for 72 hrs under nitrogen. After cooled down to room temperature, solvent was removed in vacuo. To the solid residue, water and dichloromethane was added. The organic layer was separated and the aqueous layer was extracted with dichloromethane (100 mL) twice. The combined organic layer was dried over magnesium sulfate and filtered. Solvent was evaporated under reduced pressure to give a yellow solid. The yellow solid was purified by flash chromatography on silica gel eluting with hexane:dichloromethane (1:1) to give a solid (4.00 g, 56% yield). The yellow product was washed with hot acetone in a Soxhlet extractor for 12 hrs before sending for elemental analysis. 1H (300 MHz, CD2Cl2) δ 7.49 (s, 6H), 2.81 (t, J=6.8 Hz, 12H), 1.55 (p, J=6.6 Hz, 12H), 1.50-1.25 (m, 84H), 0.93 (t, J=6.3 Hz, 18H). 13C NMR (75 MHz, CD2Cl2): 143.36, 141.84, 140.42, 122.26, 33.22, 32.36, 30.14, 30.07, 29.91, 29.82, 28.24, 23.13, 14.32. HRMS MALDI-TOF (with CHCA as matrix), 1417.8975; calcd. For C84H133N6S6 (M+H), 1417.8911. Anal. Calcd. For C84H132N6S6: C, 71.13; H, 9.38; N, 5.93. Found: C, 70.92; H, 9.38; N, 5.90.

reactant | 2,3,8,9,14,15-hexachloro-5,6,11,12,17,18-hexaazatrinaphthylene | 5.08 mmol, 3.00 g | ClC1=CC2=NC=3C4=NC5=CC(=C(C=C5N=C4C4=NC5=CC(=C(C=C5N=C4C3N=C2C=C1Cl)Cl)Cl)Cl)Cl | C24H6Cl6N6
reactant | 1-decanethiol | 66.75 mmol, 13.74 mL | C(CCCCCCCCC)S | C10H22S
reactant | K2CO3 | 185.00 mmol, 25.55 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 2,3,8,9,14,15-Hexakis-decylsulfanyl-5,6,11,12,17,18-hexaazatrinaphthylene | 4.00 g, 56% yield | C(CCCCCCCCC)SC1=CC2=NC=3C4=NC5=CC(=C(C=C5N=C4C4=NC5=CC(=C(C=C5N=C4C3N=C2C=C1SCCCCCCCCCC)SCCCCCCCCCC)SCCCCCCCCCC)SCCCCCCCCCC)SCCCCCCCCCC | C84H132N6S6
